US05508273
O,O-Diethyl 2,5-dimethylphenyl(phenyl)methylphosphonate
A solution of 2,5-dimethylbenzhydryl bromide (64.2 g, 233 mmol) prepared according to Example 3, was heated at 155° C., under N2, in triethyl phosphite (60.0 mL, 350 mmol), for 16 hours. The excess triethyl phosphite was removed by distillation to give 76.6 g of a pale yellow oil. The crude product was chromatographed on a silica gel column. Elution with ethyl acetate/hexane (1:1) afforded analytically pure product as a pale yellow oil, 57.36 g (74.0%). 300 MHz 1H NMR (CDCl3): δ, 4.64 (d,1H, J=26.0 Hz, PCH), 2.33 (s, 3H, PhCH3), 2.28 (s, 3H, PhCH3). MS: 333 (M+1).

reactant | 2,5-dimethylbenzhydryl bromide | 233 mmol, 64.2 g | CC1=C(C(C2=CC=CC=C2)Br)C=C(C=C1)C | C15H15Br
reactant | triethyl phosphite | 350 mmol, 60.0 mL | P(OCC)(OCC)OCC | C6H15O3P
product | O,O-Diethyl 2,5-dimethylphenyl(phenyl)methylphosphonate | 76.6 g | CC1=C(C=C(C=C1)C)C(C1=CC=CC=C1)P(OCC)(OCC)=O | C19H25O3P
